US08217066B2
Step 4: 1-{4′-[4-(3-Benzylamino-2-hydroxy-propyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
1-[4′-(3-Methyl-4-oxiranylmethyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester (0.160 g, 0.40 mmol) was dissolved in N-methylpyrrolidone (5 mL) then benzylamine (0.130 mL, 1.2 mmol) was added. The reaction was heated to 85° C. overnight then cooled and submitted to standard aqueous workup to yield the title compound.

reactant | 1-[4′-(3-Methyl-4-oxiranylmethyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | 0.40 mmol, 0.160 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CC1OC1 | C25H25NO4
reactant | benzylamine | 1.2 mmol, 0.130 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | N-methylpyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | 1-{4′-[4-(3-Benzylamino-2-hydroxy-propyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CC(CNCC1=CC=CC=C1)O | C32H34N2O4
